US08106045B2
To a suspension of (2S)-2-(4-bromophenyl)-4-((1R)-1-phenylethyl)morpholine (3.46 g, 10.0 mmol) in tetrahydrofuran (80 ml) was added n-butyllithium (7.7 ml, 12.0 mmol, 1.56 M in hexane) at −78° C. After stirring the mixture for 10 minutes, excess of dry ice was added to the mixture and the reaction mixture was maintained at −78° C. for 1.5 hours and then partitioned between diethyl ether and 0.2 N aqueous sodium hydroxide. The aqueous layer was washed with diethyl ether and neutralized with 1N hydrochloric acid. The resulting aqueous layer was extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. Filtration of the precipitate gave 4-[(2S)-4-((1R)-1-phenyl-ethy)-morpholin-2-yl]-benzoic acid (3.05 g, 98%) as white crystals.

reactant | (2S)-2-(4-bromophenyl)-4-((1R)-1-phenylethyl)morpholine | 10.0 mmol, 3.46 g | BrC1=CC=C(C=C1)[C@H]1CN(CCO1)[C@H](C)C1=CC=CC=C1 | C18H20BrNO
reactant | n-butyllithium | 12.0 mmol, 1.56 M, 7.7 ml | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 4-[(2S)-4-((1R)-1-phenyl-ethy)-morpholin-2-yl]-benzoic acid | 3.05 g, 98% | C1(=CC=CC=C1)[C@@H](C)N1C[C@@H](OCC1)C1=CC=C(C(=O)O)C=C1 | C19H21NO3
